datasets/RMG-dataset.csv
rxn,Ea
[C:0]([C:1]([C:2](=[S:3])[H:9])([H:7])[H:8])([H:4])([H:5])[H:6].[C:10]([C:11]([C:12]([H:22])([H:23])[H:24])[c:13]1[c:14]([H:25])[c:15]([H:26])[c:16]([H:27])[c:17]([H:28])[c:18]1[H:29])([H:19])([H:20])[H:21]>>[C:0]([C:1]([C:2](=[S:3])[H:9])[H:8])([H:4])([H:5])[H:6].[H:7][C:11]([C:10]([H:19])([H:20])[H:21])([C:12]([H:22])([H:23])[H:24])[c:13]1[c:14]([H:25])[c:15]([H:26])[c:16]([H:27])[c:17]([H:28])[c:18]1[H:29],44.9362
[C:0]([C:1]([C:2]([C:3]([H:12])([H:13])[H:14])[C:4]([O:5][O:6][H:17])([H:15])[H:16])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:0]([C:1]([C:2]1([C:3]([H:12])([H:13])[H:14])[C:4]([H:15])([H:16])[O:5]1)([H:10])[H:11])([H:7])([H:8])[H:9].[O:6][H:17],40.1664
[C:0](=[C:1]([c:2]1[c:3]([H:11])[c:4]([H:12])[c:5]([H:13])[c:6]([H:14])[c:7]1[H:15])[H:10])([H:8])[H:9].[C:16]([H:17])([H:18])[H:19]>>[C:0]([C:1]([c:2]1[c:3]([H:11])[c:4]([H:12])[c:5]([H:13])[c:6]([H:14])[c:7]1[H:15])[H:10])([H:8])([H:9])[C:16]([H:17])([H:18])[H:19],17.9075
[C:0](=[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])=[C:4]([C:5]([H:14])([H:15])[H:16])[C:6](=[C:7]([H:18])[H:19])[H:17])[H:10])([H:8])[H:9].[C:20]([C:21](=[C:22]([H:26])[H:27])[H:25])([H:23])[H:24]>>[C:0](=[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4]([C:5]([H:14])([H:15])[H:16])[C:6](=[C:7]([H:18])[H:19])[H:17])[C:20]([C:21](=[C:22]([H:26])[H:27])[H:25])([H:23])[H:24])[H:10])([H:8])[H:9],45.5638
[C:0]([C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([O:4][O:5])[H:11])([H:9])[H:10])([H:6])([H:7])[H:8].[C:15]([O:16][H:20])([H:17])([H:18])[H:19]>>[C:0]([C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([O:4][O:5][H:17])[H:11])([H:9])[H:10])([H:6])([H:7])[H:8].[C:15]([O:16][H:20])([H:18])[H:19],81.00224
[C:0](#[C:1][C:2]([C:3]([H:11])([H:12])[H:13])[C:4](=[C:5]([C:6]([C:7](=[C:8]([H:18])[H:19])[C:9]([H:20])([H:21])[H:22])([H:16])[H:17])[H:15])[H:14])[H:10]>>[C:0](#[C:1][C:2]1([C:3]([H:11])([H:12])[H:13])[C:4]([H:14])=[C:5]([H:15])[C:6]([H:16])([H:17])[C:7]([C:9]([H:20])([H:21])[H:22])[C:8]1([H:18])[H:19])[H:10],116.901
[C:0](#[C:1][C:2](=[C:3]([C:4](=[C:5]([H:10])[H:11])[H:9])[H:8])[H:7])[H:6].[C:12](#[C:13][C:14]([H:16])[H:17])[H:15]>>[C:0](#[C:1][C:2]([C:3]([C:4](=[C:5]([H:10])[H:11])[H:9])([H:8])[C:14]([C:13]#[C:12][H:15])([H:16])[H:17])[H:7])[H:6],31.4637
[C:0]1([H:5])[C:1]([H:6])=[C:2]([H:7])[C:3]([H:8])([H:9])[C:4]1([H:10])[H:11]>>[C:0]([C:1](=[C:2]([C:3]([H:8])[H:9])[H:7])[H:6])(=[C:4]([H:10])[H:11])[H:5],165.268
[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([H:7])[H:8])[H:6])([H:4])[H:5].[C:12]([C:13]([C:14]([C:15]([H:24])([H:25])[H:26])([O:16][O:17])[H:23])([H:21])[H:22])([H:18])([H:19])[H:20]>>[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])[H:8])[H:6])([H:4])[H:5].[H:7][O:17][O:16][C:14]([C:13]([C:12]([H:18])([H:19])[H:20])([H:21])[H:22])([C:15]([H:24])([H:25])[H:26])[H:23],62.3416
[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])[C:4]([H:11])([H:12])[H:13])[H:7])([H:5])[H:6].[S:14]([C:15]([c:16]1[c:17]([H:25])[c:18]([H:26])[c:19]([H:27])[c:20]([H:28])[c:21]1[H:29])([H:23])[H:24])[H:22]>>[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])([C:4]([H:11])([H:12])[H:13])[H:23])[H:7])([H:5])[H:6].[S:14]([C:15]([c:16]1[c:17]([H:25])[c:18]([H:26])[c:19]([H:27])[c:20]([H:28])[c:21]1[H:29])[H:24])[H:22],35.1456
[C:0](#[C:1][C:2](=[C:3]([C:4](=[C:5]([H:14])[H:15])[H:13])[C:6]([C:7]([C:8]([H:18])([H:19])[H:20])[C:9](=[C:10]([H:22])[H:23])[H:21])([H:16])[H:17])[H:12])[H:11]>>[C:0](#[C:1][C:2]1([H:12])[C:3]([C:4](=[C:5]([H:14])[H:15])[H:13])[C:6]([H:16])([H:17])[C:7]1([C:8]([H:18])([H:19])[H:20])[C:9](=[C:10]([H:22])[H:23])[H:21])[H:11],155.98
[C:0](=[C:1]([C:2](=[C:3]([C:4]([H:10])([H:11])[H:12])[C:5]([H:13])([H:14])[H:15])[H:9])[H:8])([H:6])[H:7].[C:16](=[C:17]([C:18]([C:19](=[C:20]([H:26])[H:27])[H:25])[H:24])[H:23])([H:21])[H:22]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([H:10])([H:11])[H:12])([C:5]([H:13])([H:14])[H:15])[C:18]([C:17](=[C:16]([H:21])[H:22])[H:23])([C:19](=[C:20]([H:26])[H:27])[H:25])[H:24])[H:9])[H:8])([H:6])[H:7],65.9817
[C:0](=[C:1]([C:2](=[C:3]([C:4]([H:10])([H:11])[H:12])[C:5]([H:13])([H:14])[H:15])[H:9])[H:8])([H:6])[H:7].[C:16]([C:17]([H:20])([H:21])[H:22])([H:18])[H:19]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([H:10])([H:11])[H:12])([C:5]([H:13])([H:14])[H:15])[C:16]([C:17]([H:20])([H:21])[H:22])([H:18])[H:19])[H:9])[H:8])([H:6])[H:7],18.2422
[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([C:3]([H:11])([H:12])[H:13])[C:4]([H:14])([H:15])[H:16])([H:5])([H:6])[H:7].[Cl:17]>>[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([C:3]([H:11])([H:12])[H:13])[C:4]([H:14])([H:15])[H:16])([H:6])[H:7].[H:5][Cl:17],3.8496
[C:0]([C:1]([C:2]([C:3]([C:4]([O:5][O:6][H:19])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([O:7][O:8])[H:12])([H:9])([H:10])[H:11]>>[C:0]([C:1]([C:2]([C:3]([C:4]([O:5][O:6][H:19])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([O:7][O:8][H:9])[H:12])([H:10])[H:11],140.164
[C:0](=[C:1]([C:2]1([H:10])[C:3]([H:11])=[C:4]([H:12])[C:5](=[O:6])[O:7]1)[H:9])[H:8]>>[C:0]1([H:8])=[C:1]([H:9])[C:2]2([H:10])[C:3]([H:11])[C:4]1([H:12])[C:5](=[O:6])[O:7]2,79.24496
